US04689345
(5-Chloro-1-pentyloxy)(2,2-dimethylethyl)dimethylsilane {[(5chloropentyl)oxy](1,1-dimethylethyl)dimethylsilane}
5-Chloropentanol (325 g, 2.65 moles) is added to a solution containing tert-butyldimethylsilyl chloride (439 g, 2.91 moles) and dimethylformamide (1.625 liters). The solution is stirred and imidazole (199 g, 2.91 moles) is added at once. The solution is stirred at room temperature for 6 hours, after which time water (1 liter) is added and the reaction is partitioned with hexanes. The organic phase is separated and the solvent volume reduced under vacuum. The residue is dried over anhydrous magnesium sulfate and the remaining solvent removed under vacuum, leaving a clear, colorless oil. The crude product is subsequently fractionally distilled under reduced pressure leaving the product as a clear, colorless oil (534 g, 2.26 moles), BP 71° C./0.3 mm.

reactant | 5-Chloropentanol | 2.65 moles, 325 g | ClCCCCCO | C5H11ClO
reactant | tert-butyldimethylsilyl chloride | 2.91 moles, 439 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | 1.625 liters | CN(C=O)C | C3H7NO
reactant | imidazole | 2.91 moles, 199 g | N1C=NC=C1 | C3H4N2
solvent | water | 1 liter | O | H2O
product | (5-Chloro-1-pentyloxy)(2,2-dimethylethyl)dimethylsilane | 2.26 moles, 534 g | ClCCCCCO[Si](C)(C)CC(C)C | C11H25ClOSi
